US04096267
Step C: [1-Oxo-2-(4-chlorophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid hemihydrate
A stirred mixture of 2-(4-chlorophenyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (2.95 g., 0.00863 mole), potassium carbonate (2.26 g., 0.0163 mole) and ethylbromoacetate (2.72 g., 0.0163 mole) in dimethylformamide (50 ml.) is warmed at 55°-60° C. for 2 hours, then treated with water (50 ml.)-10N sodium hydroxide solution (2.5 ml., 0.025 mole) and heated at 80° C. for one hour. The reaction mixture is added slowly to water (500 ml.)-12N hydrochloric acid (10 ml.) to precipitate 1.37 g. of [1-oxo-2-(4-chlorophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid hemihydrate which melts at 141°-142° C. after crystallization from acetic acid:water, 1:1.

reactant | 2-(4-chlorophenyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.00863 mole, 2.95 g | ClC1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C16H11Cl3O2
reactant | potassium carbonate | 0.0163 mole, 2.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylbromoacetate | 0.0163 mole, 2.72 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | sodium hydroxide | 0.025 mole, 2.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | -12N, 500 ml | O | H2O
solvent | water | -10N, 50 ml | O | H2O
product | [1-Oxo-2-(4-chlorophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid hemihydrate | O.O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)Cl.O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=C(C=C1)Cl)C | InChI=1S/2C18H13Cl3O4.H2O/c2*1-18(10-2-4-11(19)5-3-10)7-9-6-12(25-8-13(22)23)15(20)16(21)14(9)17(18)24;/h2*2-6H,7-8H2,1H3,(H,22,23);1H2
